US05026856
10-(5-aminomethyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido [1,2,3-de][1,4]-benzoxazine-6-carboxylic acid
315 mg of 10-(5-acetamidomethyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6carboxylic acid was added to a mixed solution of 12 ml of concentrated HCl, 2.5 ml of water, and 5 ml of ethanol, and the mixture was heated under reflux for 15 hours. After the mixture was concentrated under reduced pressure, the residue was recrystallized from ethanol to obtain 170 mg of 10-(5-aminomethyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]1,4]-benzoxazine-6-carboxylic acid.

reactant | 10-(5-acetamidomethyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de][1,4]-benzoxazine-6carboxylic acid | 315 mg | C(C)(=O)NCC=1C=C2CN(CC2=CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C24H22FN3O5
reactant | HCl | 12 ml | Cl | ClH
reactant | water | 2.5 ml | O | H2O
reactant | benzoxazine-6-carboxylic acid | O1NC=CC2=C1C=CC(=C2)C(=O)O | C9H7NO3
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 10-(5-aminomethyl-2-isoindolinyl)-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido [1,2,3-de][1,4]-benzoxazine-6-carboxylic acid | NCC=1C=C2CN(CC2=CC1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C22H20FN3O4
